2125-10-17 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2125-10-16**] 06:53 PM
 DIALYSIS CATHETER - START [**2125-10-16**] 07:22 PM
 EKG - At [**2125-10-16**] 08:00 PM
 BLOOD CULTURED - At [**2125-10-16**] 09:02 PM
 URINE CULTURE - At [**2125-10-16**] 09:02 PM
   1.pressures stable on levophed, unable to wean
   2. on linezolid and zosyn
   3. blood cx with gram neg rods
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2125-10-16**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-10-17**] 02:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-17**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 82 (70 - 93) bpm
   BP: 112/66(75) {96/47(58) - 113/69(77)} mmHg
   RR: 23 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
    CVP: 8 (4 - 15)mmHg
   Total In:
                                                                  2,753 mL
                                                                    309 mL
   PO:
   TF:
   IVF:
                                                                    353 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    172 mL
   Urine:
                                                                    155 mL
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,468 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   8.5 g/dL
   123 mg/dL
   26 mEq/L
   3.7 mEq/L
   97 mEq/L
   134 mEq/L
   25.6 %
   10.1 K/uL
        [image002.jpg]
                            [**2125-10-17**]  01:25 AM
   WBC
   10.1
   Hct
   25.6
   Plt
   147
   Glucose
   123
   Other labs: Differential-Neuts:88.1 %, Lymph:7.9 %, Mono:2.8 %, Eos:0.9
   %, Lactic Acid:0.9 mmol/L, LDH:166 IU/L, Ca++:8.1 mg/dL, Mg++:3.4
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan:
   81M w/ pmh ESRD on HD, Diastolic CHF, afib, previous line infections
   currently being treated with vancomycin, presenting with fevers,
   chills, hypotension.
   1.Hypotension/fevers: patient on HD, currently being treated with
   vancomycin for HD line infection and MRSA bacteremia.  Also with recent
   history of VRE UTI, klebsiella and proteus UTI.  Patient has recently
   been living at nursing home, will therefore treat broadly with coverage
   of MRSA and pseudomonas. Will discontinue vancomycin and continue with
   linezolid, given that patient is presenting with fever on vancomycin,
   we will assume that the infecting microorganism is resistant to
   vancomycin.  will also treat with zosyn.  On levophed, currently
   stable, will attempt to wean off overnight.
   -vancomycin
   -zosyn
   2.CKD: undergoes HD T,Th, Sa, last session was this past saturday.
   Renal service following and will dialyze this week.  Renal plans for HD
   today,
   3.Atrial fibrillation: holding lopressor in setting of hypotension.
   CHADS score of 2+, patient has previously declined coumadin.  Will
   continue with aspirin
   4.Diastolic CHF: EF 60%.  Continue with HD for fluid balance. holding
   lopressor in setting of hypotension.
   5.COPD: will continue with atrovent and spiriva.  will continue with
   CPAP overnight for sleep apnea.
   6.Ppx: sub cutaneous heparin, bowel regimen
   7. Code: full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Dialysis Catheter - [**2125-10-16**] 07:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Dialysis Catheter - [**2125-10-16**] 07:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-10-18 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1. Had HD yesterday
   2. Tunnelled HD line removed after HD
   3 .pressures stable on levophed 0.05
   4. on linezolid and zosyn
   5. blood cx with gram neg rods
   6. No VRE bacteremia seen, changing this morning to zosyn/vanco and
   await GNR susceptibilities
   7. Vanc level yesterday after HD was 17
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-10-17**] 02:00 AM
   Linezolid - [**2125-10-17**] 09:40 AM
   Piperacillin - [**2125-10-18**] 02:28 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2125-10-18**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 99 (74 - 99) bpm
   BP: 103/48(62) {89/48(62) - 120/78(85)} mmHg
   RR: 25 (8 - 26) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
    CVP: 7 (5 - 15)mmHg
   Total In:
                                                                    904 mL
                                                                    239 mL
   PO:
   TF:
   IVF:
                                                                    904 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                    432 mL
                                                                    100 mL
   Urine:
                                                                    432 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    472 mL
                                                                    139 mL
   Respiratory support
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   8.2 g/dL
   105 mg/dL
   2.5 mg/dL
   29 mEq/L
   3.3 mEq/L
   19 mg/dL
   95 mEq/L
   131 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                            [**2125-10-17**]  01:25 AM
                            [**2125-10-17**]  04:24 PM
                            [**2125-10-18**]  04:47 AM
   WBC
   10.1
   8.6
   6.1
   Hct
   25.6
   28.5
   25.4
   Plt
   147
   144
   155
   Cr
   1.5
   2.5
   Glucose
   123
   124
   105
   Other labs: PT / PTT / INR:15.0/33.6/1.3, Differential-Neuts:88.1 %,
   Lymph:7.9 %, Mono:2.8 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L, LDH:166
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR with interval improvement in volume overload
   Microbiology: [**10-16**] GNR high grade
   [**10-17**] NGTD
   Assessment and Plan
   81M w/ pmh ESRD on HD, Diastolic CHF, afib, previous line infections
   currently being treated with vancomycin, presenting with GNR Bacteremia
   1.GNR Sepsis: Continues on levophed 0.05; continue antimicrobial
   coverage
   -Linezolid change to vancomycin for continued MRSA treatment through
   [**10-23**]
   -zosyn pending susceptibilities, plan [**1-21**] week course; line pulled
   - Wean off levophed as BP tolerates
   2.CKD: undergoes HD T,Th, Sa, last session was this past saturday. Line
   holiday, consider HD on Friday with temp line
   - Plan temp line and HD run tomorrow, convert to tunneled line on
   Monday; will d/w renal possibility of inserting tunnel tomorrow
   3.Atrial fibrillation: holding lopressor in setting of hypotension.
   CHADS score of 2+, patient has previously declined coumadin.  - -
   - Will continue with aspirin
   4.Diastolic CHF: EF 60%.  Continue with HD for fluid balance. holding
   lopressor in setting of hypotension.
   5.COPD: will continue with atrovent and spiriva.  will continue with
   CPAP overnight for sleep apnea.
   6.Ppx: sub cutaneous heparin, pneumoboots, bowel regimen
   7. Code: full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2125-10-18 10:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - HD [**10-17**]. 1Liter
   - in dwelling HD line removed
   - Awaiting speciation for GNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2125-10-17**] 02:00 AM
   Piperacillin - [**2125-10-18**] 02:28 AM
   Linezolid - [**2125-10-18**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-10-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-18**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 98 (74 - 99) bpm
   BP: 99/62(70) {96/37(55) - 120/78(85)} mmHg
   RR: 23 (8 - 26) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
   CVP: 7 (5 - 15)mmHg
   Total In:
                                                                    904 mL
                                                                    680 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    904 mL
                                                                    580 mL
   Blood products:
   Total out:
                                                                    432 mL
                                                                    180 mL
   Urine:
                                                                    432 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    472 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   NAD, awake and alert
   Lungs with decreased BS at the based b/l. Irreg irreg HR
   Decreased BS
   Trace edema b/l (improved compared to yesterday)
   Cath site C/D/I no purulence
   Non focal neuro exam
   Labs / Radiology
   8.2 g/dL
   155 K/uL
   105 mg/dL
   2.5 mg/dL
   29 mEq/L
   3.3 mEq/L
   19 mg/dL
   95 mEq/L
   131 mEq/L
   25.4 %
   6.1 K/uL
        [image002.jpg]
                            [**2125-10-17**]  01:25 AM
                            [**2125-10-17**]  04:24 PM
                            [**2125-10-18**]  04:47 AM
   WBC
   10.1
   8.6
   6.1
   Hct
   25.6
   28.5
   25.4
   Plt
   147
   144
   155
   Cr
   1.5
   2.5
   Glucose
   123
   124
   105
   Other labs: PT / PTT / INR:15.0/33.6/1.3, Differential-Neuts:88.1 %,
   Lymph:7.9 %, Mono:2.8 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L, LDH:166
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Microbiology: [**10-17**] blood culture: pending
   [**10-16**] blood GNR awaiting speciation
   Assessment and Plan
   81M with ESRD, recent MRSA HD line infection has been on vancomycin as
   outpt p/w fevers/rigors, hypotensive with SBP 60s in ED.  Now with
   peripheral GNR from blood, s/p indwelling line removal [**10-17**].
   GNR bacteremia: likely source is HD catheter which was pulled [**10-17**].
   Try to Stop NE, goal MAP of > 60 mmHg
   - Pip-tazo  Day 1 = [**10-16**]. Plan for min of two weeks
      Linezolid stopped [**10-18**]. Back to Vanco to finish course for previous
   MRSA bacteremia (last dose 11/4). Dose by HD
   - plan for PICC line and D/c central line or alternatively see if the
   pathogen is ceztaz/gent that he can get at HD. [**Month (only) 60**] be able to proceed
   directly to tunneled line
   Renal failure: temporary line tomorrow possibly if clx remain negative
   and plan for HD session, with tunnel
   A-fib: holding lopressor with plan to restart when clx persistently
   neg.
   COPD: tiotropium
   Potential call out to the floor if he is stable off pressors this
   afternoon.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 mins

2125-10-19 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-10-18**] 12:40 PM
   1.       Culture data: [**10-16**] BCx: E.coli, senses pending
   2.       Not able to wean Levophed
   3.       Switched Linezolid to Vanc/Zosyn
   4.       DC
d ipratropium
   5.       On call to IR for temporary vs. tunnelled HD line pending
   culture data from [**Date range (1) 6265**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2125-10-18**] 02:28 AM
   Linezolid - [**2125-10-18**] 08:00 AM
   Vancomycin - [**2125-10-18**] 08:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-10-19**] 01:27 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-10-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-19**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 86 (79 - 106) bpm
   BP: 119/56(71) {84/22(53) - 133/81(89)} mmHg
   RR: 26 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 10 (6 - 16)mmHg
   Total In:
                                                                  2,358 mL
                                                                    126 mL
   PO:
                                                                    650 mL
   TF:
   IVF:
                                                                  1,708 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                    205 mL
   Urine:
                                                                    390 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,968 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Gen: awake, alert, NAD
   Cardio: RRR, no m/g/r
   Pulm: CTA b/l
   GI: abd soft, NT, obese
   Ext: trace edema b/l
   Labs / Radiology
   149 K/uL
   8.3 g/dL
   116 mg/dL
   3.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   28 mg/dL
   99 mEq/L
   134 mEq/L
   24.9 %
   5.3 K/uL
        [image002.jpg]
                            [**2125-10-17**]  01:25 AM
                            [**2125-10-17**]  04:24 PM
                            [**2125-10-18**]  04:47 AM
                            [**2125-10-19**]  02:47 AM
   WBC
   10.1
   8.6
   6.1
   5.3
   Hct
   25.6
   28.5
   25.4
   24.9
   Plt
   147
   144
   155
   149
   Cr
   1.5
   2.5
   3.0
   Glucose
   123
   124
   105
   116
   Other labs: PT / PTT / INR:14.3/30.1/1.2, Differential-Neuts:75.1 %,
   Lymph:16.1 %, Mono:6.5 %, Eos:2.3 %, Lactic Acid:1.1 mmol/L, LDH:166
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
[**2125-10-16**] 12:30 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      ESCHERICHIA COLI.    FINAL SENSITIVITIES.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ESCHERICHIA COLI
                             |
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CEFUROXIME------------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
PIPERACILLIN---------- =>128 R
PIPERACILLIN/[**Month/Day/Year 6270**]-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
   81M w/ pmh ESRD on HD, Diastolic CHF, afib, previous line infections
   currently being treated with vancomycin, presenting with GNR Bacteremia
   1.GNR Sepsis: Continues on levophed 0.05; continue antimicrobial
   coverage. Growing E.Coli, resistant to ampicillin, cephalosporins.
   Sensitive to zosyn, tobramycin, gentamicin, bactrim.
   -Linezolid change to vancomycin for continued MRSA treatment through
   [**10-23**]
   -zosyn, plan [**1-21**] week course; line pulled [**10-18**].
   - Wean off levophed as BP tolerates
   2.CKD: undergoes HD T,Th, Sa.  Patient still dependent on levophed for
   blood pressure maintenance, he lthrefore ikely has a low level
   Bacteremia and we will place a temporary HD line today, with plans to
   place a permanent line on Monday.
   -temp HD line placement today
   -HD today
   -permanent line place Monday
   3.Atrial fibrillation: holding lopressor in setting of hypotension.
   CHADS score of 2+, patient has previously declined coumadin.  - -
   - Will continue with aspirin
   4.Diastolic CHF: EF 60%.  Continue with HD for fluid balance. holding
   lopressor in setting of hypotension.
   5.COPD: will continue with spiriva.  will continue with CPAP overnight
   for sleep apnea.
   6.Ppx: sub cutaneous heparin, pneumoboots, bowel regimen
   7. Code: full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Prophylaxis:
   DVT: sub q heparin
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-10-19 08:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: GNR sepsis, catheter related
   24 Hour Events:
   Unable to wean off pressors
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2125-10-18**] 02:28 AM
   Linezolid - [**2125-10-18**] 08:00 AM
   Vancomycin - [**2125-10-18**] 08:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-10-19**] 01:27 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-10-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-18**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-19**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 86 (79 - 106) bpm
   BP: 119/56(71) {84/22(53) - 133/81(89)} mmHg
   RR: 26 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 10 (6 - 16)mmHg
   Total In:
                                                                  2,358 mL
                                                                    129 mL
   PO:
                                                                    650 mL
   TF:
   IVF:
                                                                  1,708 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                    205 mL
   Urine:
                                                                    390 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,968 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   149 K/uL
   116 mg/dL
   3.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   28 mg/dL
   99 mEq/L
   134 mEq/L
   24.9 %
   5.3 K/uL
        [image002.jpg]
                            [**2125-10-17**]  01:25 AM
                            [**2125-10-17**]  04:24 PM
                            [**2125-10-18**]  04:47 AM
                            [**2125-10-19**]  02:47 AM
   WBC
   10.1
   8.6
   6.1
   5.3
   Hct
   25.6
   28.5
   25.4
   24.9
   Plt
   147
   144
   155
   149
   Cr
   1.5
   2.5
   3.0
   Glucose
   123
   124
   105
   116
   Other labs: PT / PTT / INR:14.3/30.1/1.2, Differential-Neuts:75.1 %,
   Lymph:16.1 %, Mono:6.5 %, Eos:2.3 %, Lactic Acid:1.1 mmol/L, LDH:166
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
[**10-16**] ESCHERICHIA COLI.    FINAL SENSITIVITIES.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ESCHERICHIA COLI
                             |
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CEFUROXIME------------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
PIPERACILLIN---------- =>128 R
PIPERACILLIN/[**Month/Year (2) 6270**]-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
   81M with ESRD, recent MRSA HD line infection has been on vancomycin as
   outpt now with E. coli bacteremia (gent and pip-[**First Name9 (NamePattern2) **] [**Last Name (un) **]) on [**10-16**].
   >E.coli  bacteremia: likely source is HD catheter which was pulled
   [**10-17**]. Try to Stop NE, goal MAP of > 60 mmHg
   - Pip-[**Month/Year (2) **]  Day 1 = [**10-16**]. Can likely change to gent ([**Last Name (un) **]) and dose
   with HD. 14 day course planned.
   - Linezolid stopped [**10-18**]. Back to Vanco to finish course for previous
   MRSA bacteremia (last dose 11/4). Dose by HD
   >Renal failure: temporary line today given cont mild pressor
   requirement
   >A-fib: holding lopressor with plan to restart when clx persistently
   neg.
     - cont ASA (he has declined coumadin in past)
   >COPD: cont tiotropium
   Potential call out to the floor if he is stable off pressors this
   afternoon.
    Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  update his wife regarding current situation
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-10-20 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2125-10-19**] 01:30 PM
   OVERNIGHT EVENTS:
   1.temp HD line placed
   2.levophed weaned off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2125-10-18**] 02:28 AM
   Linezolid - [**2125-10-18**] 08:00 AM
   Vancomycin - [**2125-10-18**] 08:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-10-20**] 02:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-10-19**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-10-19**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-20**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 91 (83 - 108) bpm
   BP: 110/55(68) {88/47(58) - 115/72(82)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
    CVP: 11 (5 - 12)mmHg
   Total In:
                                                                    849 mL
                                                                    122 mL
   PO:
                                                                    440 mL
   TF:
   IVF:
                                                                    409 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                    190 mL
   Urine:
                                                                    445 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    404 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   7.9 g/dL
   89 mg/dL
   3.3 mg/dL
   27 mEq/L
   4.2 mEq/L
   32 mg/dL
   101 mEq/L
   136 mEq/L
   23.8 %
   4.4 K/uL
        [image002.jpg]
                            [**2125-10-17**]  01:25 AM
                            [**2125-10-17**]  04:24 PM
                            [**2125-10-18**]  04:47 AM
                            [**2125-10-19**]  02:47 AM
                             [**2125-10-20**]  01:59 AM
   WBC
   10.1
   8.6
   6.1
   5.3
   4.4
   Hct
   25.6
   28.5
   25.4
   24.9
   23.8
   Plt
   147
   144
   155
   149
   144
   Cr
   1.5
   2.5
   3.0
   3.3
   Glucose
   123
   124
   105
   116
   89
   Other labs: PT / PTT / INR:14.1/33.6/1.2, Differential-Neuts:75.1 %,
   Lymph:16.1 %, Mono:6.5 %, Eos:2.3 %, Lactic Acid:1.1 mmol/L, LDH:166
   IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   81M w/ ESRD on HD, Diastolic CHF, afib, previous line infections
   currently being treated with vancomycin, presenting with GNR bacteremia
   1.GNR Sepsis: Initially required levophed for hypotension, now off.
   Blood cultures from [**10-16**] grew E.Coli sensitive only to zosyn,
   tobramycin, gentamicin, bactrim.
   - Hemodialysis line pulled on [**10-18**]
   - Started on Zosyn, but will change Gentamycin monotherapy with HD to
   reduce access requirement with plan for 2 week course (count [**10-18**] when
   line d/c
d as day 1, end date = [**10-31**])
   2. MRSA bacteremia:
   - Linezolid change to vancomycin for continued MRSA treatment through
   [**10-23**]
   - Continue Vancomycin with HD
   3. ESRD: routine schedule is for HD T, Th, Sat.
   - Dialysis initially held while patient still requiring pressor
   support.
   - Will resume HD today as patient now hemodynamically stabilized.
   - HD line removed on [**10-18**], with temp line placed on [**10-19**].
   - Plan for permanent line placement on Monday.
   - Vanc & Gentamycin dosing with HD.
   - continue Nephrocaps
   4. Atrial fibrillation:
   - Previously on Lopressor for rate control, currently held in the
   setting of recent hypotension.
   - Will resume Lopressor once BP will tolerate.
   - CHADS score of 2+, patient has previously declined coumadin.
   - Will continue with aspirin 325 mg as stroke prophylaxis.
    5. Diastolic CHF: EF 60%.  Continue with HD for fluid balance.
   Currently holding lopressor in setting of hypotension.
   - Will resume Lopressor once BP will tolerate.
    6. COPD: Stable.
   - continue Spiriva.
   7.  OSA:
   - continue with CPAP qHS at home settings: 10 cm/h2o Supp O2: 4 L/min
   8.  Depression:  Continue fluoxetine.
   7. Code: full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Dialysis Catheter - [**2125-10-19**] 01:30 PM
   Prophylaxis:
   DVT:   SC heparin, pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Call out to Medicine floor.

2125-10-20 08:18:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: HOTN due to line sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 y.o. M w/ ESRD on HD, s/p multiple line infections on treatment
   transferred for new HOTN/sepsis
   24 Hour Events:
 DIALYSIS CATHETER - START [**2125-10-19**] 01:30 PM
   - levophed weaned to off
   - temporary dialysis line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2125-10-18**] 02:28 AM
   Linezolid - [**2125-10-18**] 08:00 AM
   Vancomycin - [**2125-10-18**] 08:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2125-10-20**] 02:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-10-19**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-10-20**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 92 (83 - 108) bpm
   BP: 116/67(78) {88/47(58) - 116/72(82)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 66 Inch
   CVP: 11 (5 - 12)mmHg
   Total In:
                                                                    849 mL
                                                                    131 mL
   PO:
                                                                    440 mL
   TF:
   IVF:
                                                                    409 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                    190 mL
   Urine:
                                                                    445 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    404 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.9 g/dL
   144 K/uL
   89 mg/dL
   3.3 mg/dL
   27 mEq/L
   4.2 mEq/L
   32 mg/dL
   101 mEq/L
   136 mEq/L
   23.8 %
   4.4 K/uL
        [image002.jpg]
                            [**2125-10-17**]  01:25 AM
                            [**2125-10-17**]  04:24 PM
                            [**2125-10-18**]  04:47 AM
                            [**2125-10-19**]  02:47 AM
                             [**2125-10-20**]  01:59 AM
   WBC
   10.1
   8.6
   6.1
   5.3
   4.4
   Hct
   25.6
   28.5
   25.4
   24.9
   23.8
   Plt
   147
   144
   155
   149
   144
   Cr
   1.5
   2.5
   3.0
   3.3
   Glucose
   123
   124
   105
   116
   89
   Other labs: PT / PTT / INR:14.1/33.6/1.2, Differential-Neuts:75.1 %,
   Lymph:16.1 %, Mono:6.5 %, Eos:2.3 %, Lactic Acid:1.1 mmol/L, LDH:166
   IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Microbiology: BCx - [**10-16**] sensitive to Zosyn, Gent, Tobra
   Assessment and Plan
   81M with ESRD, recent MRSA HD line infection on vancomycin as an
   outpatient readmitted with new HOTN/sepsis due to E. coli bacteremia
   (gent and pip-[**First Name9 (NamePattern2) **] [**Last Name (un) **]) on [**10-16**].
 SEPSIS WITHOUT ORGAN DYSFUNCTION - line sepsis due to ESBL E.coli
   - line removed [**10-18**] and temporary line placed [**10-19**]
   - on Zosyn, change to gentamycin today to be dosed at HD per renal
   - continue holding lopressor until post HD (follow BP on floor)
   - continue vanco for previous MRSA line sepsis (also dosed at HD)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   - HD today via new temp HD line
   # OSA / Hypoxemia
 witnessed apneas and hypoxemia while sleeping
   - nocturnal CPAP or O2
   - would benefit from sleep consult on floor regarding mask fitting/
   retitration PSG
   # AF, rate well controlled
   - resume ASA 325 mg qd
   # COPD
   - continue Spiriva
   ICU Care
   Nutrition:
   Comments: TOLERATES po DIET
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-10-16**] 06:53 PM
   20 Gauge - [**2125-10-16**] 07:19 PM
   Dialysis Catheter - [**2125-10-19**] 01:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  discussed with wife
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes